US09172047B2
In a 300 ml three-necked flask, 7.2 g of 4-bromodibenzofuran was dissolved in −78° C. anhydrous tetrahydrofuran (THF) under an argon atmosphere. Then, 20 ml of an n-butyl lithium-n-hexane solution (1.6 M, 1.1 eq) was added and stirred for 1 hour. 4.23 ml (1.3 eq) of trimethoxyborane (B(OMe)3) was added and stirred for 2 hours, and the temperature of the reaction system was increased to room temperature. 200 ml of 1 N hydrochloric acid was added into the reactant and stirred for 3 hours. An organic layer was separated, and solvents were distilled off. In the crude product thus obtained, hexane was added. Precipitated product was filtered to obtain 4.94 g of dibenzofuran-4-boronic acid as a white solid (yield 80%). The product was measured by FAB-MS, and dibenzofuran-4-boronic acid having a molecular weight of 212 was detected.

reactant | n-butyl lithium-n-hexane | 1.6 M, 20 ml, 1.1 eq | CCCCCC.C(CCC)[Li]
reactant | trimethoxyborane | 4.23 ml, 1.3 eq | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1 N, 200 ml | Cl | ClH
reactant | hexane | CCCCCC | C6H14
reactant | 4-bromodibenzofuran | 7.2 g | BrC1=CC=CC2=C1OC1=C2C=CC=C1 | C12H7BrO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | dibenzofuran-4-boronic acid | 4.94 g, yield 80% | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
